US06455507B1
2-Bromo-5,6-difluoro-1-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole
The title compound was prepared according to General Procedure IV using 5,6-difluoro-1-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole (1.1 g, 2.6 mmol), 60 ml tetrahydrofuran (Aldrich Sure Seal, Milwaukee), and a total of 2,8 g (16 mmol) of N-bromosuccinimide that was added in 3 ca. equivalent portions. The product from work-up by General Procedure IV was purified on a silica gel column (2.5×20 cm, 230-400 mesh) with hexanes and an increasing gradient from 5% to 20% ethyl acetate to give 1.0 g (2.0 mmol, 77% yield); MS (ES+): m/z (rel. intensity) 514 (1.0, M+23 (Na)); 1H NMR (DMSO-d6) δ8.26-8.21 (m, 1H), 7.73-7.69 (m, 1H), 5.93-5.91 (d, 1H, J=9.0 Hz), 5.69-5.62 (m, 3H), 4.11-3.90 (m, 2H), 2.20 (s, 3H), 1.98 (s,3H), 1.73 (s, 3H).

reactant | 5,6-difluoro-1-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole | 2.6 mmol, 1.1 g | FC1=CC2=C(N(C=N2)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)CO2)C=C1F | C18H18F2N2O7
reactant | N-bromosuccinimide | 16 mmol, 2,8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-Bromo-5,6-difluoro-1-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole | 77% yield | BrC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)CO1)C=C(C(=C2)F)F | C18H17BrF2N2O7
